US06784192B2
1-(Benzyloxycarbonyl)-4-[(E)-2-[2-(cyclohexylmethyloxy)phenyl]-1-ethenyl]piperidine
1.75 g of [[2-(cyclohexylmethyloxy)phenyl]methyl]triphenylphosphonium chloride was dissolved in 10 ml of dimethyl sulfoxide, 144 mg of 60% sodium hydride was added thereto, and the mixture was stirred at 70° C. After leaving to cool to room temperature, a solution of 800 mg of 1-(benzyloxycarbonyl)-4-piperidinecarboxaldehyde dissolved in 3 ml of tetrahydrofuran was added dropwise thereinto and the mixture was stirred at room temperature for one hour. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with 1N-hydrochloric acid, an aqueous saturated sodium bicarbonate and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by silica gel column chromatography (n-hexane:ethyl acetate=10:1), to give 554 mg of the title compound as a colorless oil.

reactant | [[2-(cyclohexylmethyloxy)phenyl]methyl]triphenylphosphonium chloride | 1.75 g | [Cl-].C1(CCCCC1)COC1=C(C=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydride | 144 mg | [H-].[Na+]
reactant | 1-(benzyloxycarbonyl)-4-piperidinecarboxaldehyde | 800 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=O | C14H17NO3
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 1-(Benzyloxycarbonyl)-4-[(E)-2-[2-(cyclohexylmethyloxy)phenyl]-1-ethenyl]piperidine | 554 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)\C=C\C1=C(C=CC=C1)OCC1CCCCC1 | C28H35NO3
